US06515011B2
Diethyl-3-phenylpyrrolidine-2,2-dicarboxylate was prepared from cinnamaldehyde (1.22 mL, 9.70 mmol) essentially according to the procedure described in U.S. Pat. No. 4,060,603 for the preparation of 2,2-dicarboethoxy-3,3-dimethyl-pyrrolidine. The resulting yellow oil was used in the next step without purification. LCMS RT=1.26 min. LCMS (M+H)=292.1.

reactant | cinnamaldehyde | 9.70 mmol, 1.22 mL | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | 2,2-dicarboethoxy-3,3-dimethyl-pyrrolidine | C(=O)(OCC)C1(NCCC1(C)C)C(=O)OCC | C12H21NO4
product | Diethyl-3-phenylpyrrolidine-2,2-dicarboxylate | C(C)OC(=O)C1(NCCC1C1=CC=CC=C1)C(=O)OCC | C16H21NO4
